US07348359B2
E. 3-{3-[3,5-Di-tert-butyl-2-(2,2,2-trifluoro-ethoxy)-phenyl]-1H-indol-5-yl}-but-2-enoic acid
3-{1-Benzenesulfonyl-3-[3,5-di-tert-butyl-2-(2,2,2-trifluoro-ethoxy)-phenyl]-1H-indol-5-yl}-but-2-enoic acid methyl ester was dissolved in methanol (1.5 mL)/dioxane (3 mL) and treated with 1N NaOH (2.0 mL) at 60° C. for 2.5 h. Diluted with 1N HCl (15 mL) and extracted with ethyl acetate (3×15 mL). The combined organic portions were washed with water (30 mL), brine (30 mL), dried (MgSO4), filtered and concentrated in vacuo to provide 145 mg of crude material. The material was purified using radial chromatography by (eluet: hexane/ethyl acetate gradient) to provide 72 mg (53%) of a pale yellow solid. Mp. 146-153° C. 1H NMR (250 MHz, CDCl3): δ 8.43 (bs, 1H), 7.95 (s, 1H), 7.53 (d, 1H, J=2.4), 7.46 (m, 3H), 7.38 (d, 1H, J=2.5), 6.26 (d, 1H, J=1.1), 3.86 (q, 2H, J=8.6), 2.69 (d, 3H, J=1.0), 1.49 (s, 9H), 1.37 (s, 9H). MS [EI+] 488 (M+H)+, [EI−] 486 (M−H)+. Analytical (C29H37NO3): Calculated C, 68.98; H, 6.62; N, 2.87. Found: C, 66.45; H, 6.85; N, 2.59.

reactant | 3-{1-Benzenesulfonyl-3-[3,5-di-tert-butyl-2-(2,2,2-trifluoro-ethoxy)-phenyl]-1H-indol-5-yl}-but-2-enoic acid methyl ester | COC(C=C(C)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)OCC(F)(F)F)=O | C35H38F3NO5S
reactant | NaOH | 1N, 2.0 mL | [OH-].[Na+]
solvent | methanol | 1.5 mL | CO | CH4O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 1N, 15 mL | Cl | ClH
product | 3-{3-[3,5-Di-tert-butyl-2-(2,2,2-trifluoro-ethoxy)-phenyl]-1H-indol-5-yl}-but-2-enoic acid | 72 mg, 53% | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)C1=CNC2=CC=C(C=C12)C(=CC(=O)O)C)OCC(F)(F)F | C28H32F3NO3
